US07829585B2
2-(2-Cyanoethyl)3,3-diaminopropenoic acid ethyl ester
The resulting 3,3-diamino-acrylic acid ethyl ester hydrochloride (2.2 g, 13.2 mmol) was suspended in tetrahydrofuran (40 mL) followed by the addition of triethylamine (2 mL, 14.3 mmol) and acrylonitrile (1.2 mL, 19.3 mmol) and refluxing while heating for 6 hours. Following completion of the reaction, the resulting triethylamine hydrochloride was filtered out and the filtrate was concentrated to obtain the title compound (0.6 g, 3.3 mmol, 25%).

reactant | 3,3-diamino-acrylic acid ethyl ester hydrochloride | 13.2 mmol, 2.2 g | Cl.C(C)OC(C=C(N)N)=O
reactant | triethylamine | 14.3 mmol, 2 mL | C(C)N(CC)CC | C6H15N
reactant | acrylonitrile | 19.3 mmol, 1.2 mL | C(C=C)#N | C3H3N
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 2-(2-Cyanoethyl)3,3-diaminopropenoic acid ethyl ester | 3.3 mmol, 0.6 g, 25% | C(C)OC(C(=C(N)N)CCC#N)=O | C8H13N3O2
